US05039759
Preparation of N-butyl-N'-(2-Ethyl-1-Hexyl) Urea
128.98 Grams (1 mole) of 2-ethyl-1-hexylamine and 500 ml of toluene were charged to a flask equipped with dropping funnel, thermometer, condenser, stirrer, Dean & Stark trap and condenser. The contents of the flask were refluxed for 3 hours to remove water, then cooled to 0° C. 99.6 Grams (1 mole) of butyl isocyanate were charged to the dropping funnel and added during 1 hr 5 min to the stirred flask contents. The flask contents remained at 30° C. or less during the addition.

reactant | 2-ethyl-1-hexylamine | 1 mole | C(C)C(CN)CCCC | C8H19N
reactant | butyl isocyanate | 1 mole | C(CCC)N=C=O | C5H9NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | N-butyl-N'-(2-Ethyl-1-Hexyl) Urea | C(CCC)NC(=O)NCC(CCCC)CC | C13H28N2O
